US06762321B2
1.48 g (3.38 mmol) of N-[2-(4-benzyloxy-3-methoxyphenyl)ethyl]-3-hydroxy-2-(4-chlorophenyl)acrylamide, 4.3 g (8.46 mmol) of 10% aqueous potassium hydroxide solution, 220 mg (0.677 mmol) of tetrabutylammonium bromide and 15 ml of ethylene glycol dimethyl ether were mixed and chlorodifluoromethane gas was blown thereto at room temperature. After a sample was taken out from the reaction mixture and the disappearance of the starting material was confirmed by thin layer chromatography, 5% hydrochloric acid was added to the reaction mixture, which was followed by extracted with ethyl acetate, washed with 5% hydrochrolic acid, saturated aqueous sodium bicarbonate solution and saturated brine subsequently, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was washed with hexane to give 1.45 g of N-[2-(4-benzyloxy-3-methoxyphenyl)ethyl]-2-(4-chlorophenyl)-3-difluoromethoxyacrylamide (the present compound 1453).

reactant | N-[2-(4-benzyloxy-3-methoxyphenyl)ethyl]-3-hydroxy-2-(4-chlorophenyl)acrylamide | 3.38 mmol, 1.48 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCNC(C(=CO)C1=CC=C(C=C1)Cl)=O)OC | C25H24ClNO4
reactant | potassium hydroxide | 8.46 mmol, 4.3 g | [OH-].[K+]
reactant | chlorodifluoromethane | ClC(F)F | CHClF2
reactant | hydrochloric acid | Cl | ClH
catalyst | tetrabutylammonium bromide | 0.677 mmol, 220 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethylene glycol dimethyl ether | 15 ml | COCCOC | C4H10O2
product | N-[2-(4-benzyloxy-3-methoxyphenyl)ethyl]-2-(4-chlorophenyl)-3-difluoromethoxyacrylamide | 1.45 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCNC(C(=COC(F)F)C1=CC=C(C=C1)Cl)=O)OC | C26H24ClF2NO4
